US03974179
1-METHYL-1,3,4,9-TETRAHYDROPYRANO[3,4-b]INDOLE-1-CARBOXALDEHYDE (XI; R1 = CH3, R2, R3, R4, R5AND R6 = H, AND Y = CO)
N,N-dicyclohexylcarbodiimide (17.36 g, 0.084 mole) is added to a cooled, stirred solution of the above primary alcohol (6.09 g, 0.028 mole) in 63 ml of dimethyl sulfoxide-benzene (2:1) containing trifluoroacetic acid (1.12 ml, 0.014 mole) and pyridine (2.24 ml, 0.028 mole). The reaction is stirred at room temperature under nitrogen for 5 hr. The reaction mixture is now diluted with 600 ml of ether, followed by the dropwise addition of a solution of oxalic acid (7.56 g) in 21 ml of methanol. After 30 minutes, water (600 ml) is added and the insoluble material is collected. The organic phase is washed with water (2×), 5% aqueous sodium bicarbonate (2×) and water (2×). After drying (MgSO4) the organic phase is evaporated to yield an oil. The oil is purified by chromatography on silica gel. Elution with 10% ether in benzene affords the title compound as eluate, nmr (CDCl3) δ 1.59(s,3H), 2.84(t,J = 5.5 cps, 2H), 4.15(t, J = 5.5 cps, 2H).

reactant | trifluoroacetic acid | 0.014 mole, 1.12 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | pyridine | 0.028 mole, 2.24 ml | N1=CC=CC=C1 | C5H5N
reactant | oxalic acid | 7.56 g | C(C(=O)O)(=O)O | C2H2O4
reactant | water | 600 ml | O | H2O
reactant | dimethyl sulfoxide benzene | 63 ml | CS(=O)C.C1=CC=CC=C1
solvent | ether | 600 ml | CCOCC | C4H10O
solvent | methanol | 21 ml | CO | CH4O
product | 1-METHYL-1,3,4,9-TETRAHYDROPYRANO[3,4-b]INDOLE-1-CARBOXALDEHYDE | CC1(OCCC2=C1NC1=CC=CC=C21)C=O | C13H13NO2
